US04101543
72 parts of 4-amino-cinnamonitrile are gradually added to 85 parts of 66° Be sulphuric acid diluted by 15 parts of water. The temperature rises of itself to 100°-105° C. It is maintained up to the end of the addition, then heated for 50 minutes at 100°-105° C., cooled to 20° C. and run on to 100 parts of water and 200 parts of ice. The product is neutralised by adding 170 parts of a 35° Be solution of sodium hydroxide, the temperature being maintained at 10°-20° C. and the solid is then filtered off and dried. 56 parts of 4-amino-cinnamamide are thus obtained. It is recrystallised from 400 parts of monochlorobenzene, M.p. 200° C.

reactant | 4-amino-cinnamonitrile | NC1=CC=C(C=CC#N)C=C1 | C9H8N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-amino-cinnamamide | NC1=CC=C(C=CC(=O)N)C=C1 | C9H10N2O
